US05824652
N-(3,4-Dihydro-2-methyl-3-oxo-2H-1,4-benzothiazine-2-carbonyl)-L-alanyl-D-iso-glutamine
Benzyl-N-(3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzothiazine-2-carbonyl)-L-alanyl-D-isoglutaminate (485 mg, 1.06 mmoles) was dissolved in methanol (17 ml), Pd/C (10%, 75 mg) was added thereto and it was hydrogenated at normal pressure for 12 hours. After the removal of the catalyst and evaporation of the solvent, there were obtained 265 mg (59.3%) of the title product in the form of a white powder, m.p. 124°-125° C.

reactant | Benzyl-N-(3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzothiazine-2-carbonyl)-L-alanyl-D-isoglutaminate | 1.06 mmoles, 485 mg | C(C1=CC=CC=C1)N([C@@H](C)C(=O)N[C@H](CCC(=O)[O-])C(N)=O)C(=O)C1(SC2=C(NC1=O)C=CC=C2)C
solvent | methanol | 17 ml | CO | CH4O
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | N-(3,4-Dihydro-2-methyl-3-oxo-2H-1,4-benzothiazine-2-carbonyl)-L-alanyl-D-iso-glutamine | 265 mg, 59.3% | CC1(SC2=C(NC1=O)C=CC=C2)C(=O)N[C@@H](C)C(=O)N[C@H](CCC(=O)O)C(N)=O | C18H22N4O6S
